US04301169
Synthesis of 1-(4-aminophenyl)-2-methylimidazole
13.5 g of 2-methyl-1-(4-nitrophenyl)imidazole was hydrogenated in the presence of 10% Pd/c in 160 ml of ethanol at 30° to 40° C. at an initial pressure of 40 kg/cm2. After 3 hours, the reduction mixture was filtered and the solvent was removed from the filtrate under reduced pressure. The residue was recrystallized from a mixed solvent of benzene and n-hexane to obtain 9.8 g of the intended compound having a melting point of 112° to 113° C. Elementary analysis values as C10H11N3 were as follows.

reactant | 2-methyl-1-(4-nitrophenyl)imidazole | 13.5 g | CC=1N(C=CN1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O2
solvent | ethanol | 160 ml | C(C)O | C2H6O
catalyst | Pd | [Pd] | Pd
product | 1-(4-aminophenyl)-2-methylimidazole | 9.8 g | NC1=CC=C(C=C1)N1C(=NC=C1)C | C10H11N3
